US08664401B2
Step B: 4-[4-(3-cyclohexyl propoxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoic acid
Ethyl 4-(4-hydroxy-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate (285 mg, 0.898 mmol) was weighed into a 20 ml septa cap vial with THF (10 ml) added. To this was added 3-cyclohexyl-1-propanol (0.191 ml, 1.26 mmol), followed by triphenylphosphine (330 mg, 1.21 mmol). The reaction mixture was stirred at RT for 20 minutes and then DIAD (0.248 ml, 1.26 mmol) was added. The reaction mixture was stirred for 72 hours at RT, was then diluted with ethyl acetate (100 ml) and washed with saturated sodium bicarbonate (50 ml). The product was re-extracted with ethyl acetate (100 ml). The organic phases were combined, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in dioxane (6 ml) and ethanol (6 ml). To this was added a 2.0M aqueous solution of LiOH (2.6 ml, 5.3 mmol). The reaction mixture was stirred at RT overnight, then was diluted with 30 ml of water and washed with ethyl acetate (2×50 ml) to remove any TPPO. The aqueous phase was adjusted to pH-2 with 1N HCl (10 ml) and the product was extracted with ethyl acetate (3×50 ml). The organic phases were combined, dried over sodium sulfate, filtered and concentrated to provide the title compound as a white solid (190 mg, 51%). MS (LC/MS) m/z 414.1 (M+1) 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.81-1.08 (m, 2H) 1.16-1.44 (m, 6H) 1.72 (s, 9H) 2.01 (s, 1H) 2.29-2.47 (m, 1H) 2.48-2.68 (m, 1H) 3.18 (s, 3H) 4.04 (s, 2H) 4.07-4.17 (m, 1H) 4.22-4.37 (m, 1H) 5.97-6.12 (m, 1H) 6.25-6.36 (m, 1H) 7.57-7.73 (m, 1H)

reactant | Ethyl 4-(4-hydroxy-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 0.898 mmol, 285 mg | OC1=CC(N(C=C1)CCC(C(=O)OCC)(S(=O)(=O)C)C)=O | C13H19NO6S
reactant | 3-cyclohexyl-1-propanol | 1.26 mmol, 0.191 ml | C1(CCCCC1)CCCO | C9H18O
reactant | triphenylphosphine | 1.21 mmol, 330 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.26 mmol, 0.248 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | LiOH | 5.3 mmol, 2.6 ml | [Li+].[OH-]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[4-(3-cyclohexyl propoxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoic acid | 190 mg, 51% | C1(CCCCC1)CCCOC1=CC(N(C=C1)CCC(C(=O)O)(S(=O)(=O)C)C)=O | C20H31NO6S
